US07368578B2
To a mixture of 4-[(4-chloromethyl-2-methoxyphenoxy)methyl]-2-(2-furyl)-1,3-oxazole (0.80 g), 3-hydroxy-1-phenyl-1H-pyrazole-4-carbaldehyde (0.45 g) and N,N-dimethylformamide (30 mL) was added sodium hydride (60% in oil, 0.10 g) at room temperature, and the mixture was stirred at 90° C. for 2 hrs. Water was added to the reaction mixture, and the precipitated crystals were collected by filtration to give 3-[(4-{[2-(2-furyl)-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazole-4-carbaldehyde as pale-yellow crystals (0.93 g, yield 82%). Recrystallization from ethyl acetate-hexane gave pale-yellow prism crystals. melting point: 162-163° C.

reactant | 4-[(4-chloromethyl-2-methoxyphenoxy)methyl]-2-(2-furyl)-1,3-oxazole | 0.80 g | ClCC1=CC(=C(OCC=2N=C(OC2)C=2OC=CC2)C=C1)OC | C16H14ClNO4
reactant | 3-hydroxy-1-phenyl-1H-pyrazole-4-carbaldehyde | 0.45 g | OC1=NN(C=C1C=O)C1=CC=CC=C1 | C10H8N2O2
reactant | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 0.10 g | [H-].[Na+]
solvent | Water | O | H2O
product | 3-[(4-{[2-(2-furyl)-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazole-4-carbaldehyde | 0.93 g, yield 82% | O1C(=CC=C1)C=1OC=C(N1)COC1=C(C=C(COC2=NN(C=C2C=O)C2=CC=CC=C2)C=C1)OC | C26H21N3O6
